US07638515B2
4-(2-Methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal
Analogously to Example 7, 4.84 g of 4-(2-methoxy-4-methylphenyl)-4-methyl-2-oxopentanoic acid ethyl ester is reacted with 7 ml of trifluoromethyltrimethylsilane and 3 ml of tetrabutylammonium fluoride solution (1 M in THF) in 56 ml THF to form 4.14 g of 4-(2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanoic acid ethyl ester. The product is reduced with 856 mg of lithium aluminum hydride in 170 ml of diethyl ether to 3.58 g of 4-(2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanol. The oxidation of the diol is carried out analogously to Example 7 under Swern conditions with 1.1 ml of oxalyl chloride, 2.1 ml of DMSO and 8.0 ml of triethylamine to 3.01 g of the title compound.

reactant | lithium aluminum hydride | 856 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(2-methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanol | 3.58 g | COC1=C(C=CC(=C1)C)C(CC(CO)(C(F)(F)F)O)(C)C | C15H21F3O3
reactant | oxalyl chloride | 1.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2.1 ml | CS(=O)C | C2H6OS
solvent | diethyl ether | 170 ml | C(C)OCC | C4H10O
solvent | triethylamine | 8.0 ml | C(C)N(CC)CC | C6H15N
product | 4-(2-Methoxy-4-methylphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 3.01 g | COC1=C(C=CC(=C1)C)C(CC(C=O)(C(F)(F)F)O)(C)C | C15H19F3O3
